### PR TITLE
feat(fields): add Mersenne31 circle domain skeleton

### PR DESCRIPTION
**Pull request by adrienlacombe**
## Summary

Draft STWO-style circle-domain skeleton on top of the Mersenne31 field support merged in Verified-zkEVM/CompPoly#257. The branch includes upstream `main` through `4ce69b9`.

## Changes

- Defines circle points satisfying `x^2 + y^2 = 1`, with identity, conjugation, antipode, addition, and associative addition.
- Records the STWO M31 generator `(2, 1268011823)` and proves that it lies on the circle.
- Uses Mathlib's binary doubling-and-addition implementation for scalar multiplication, with a kernel-checked proof that it agrees with repeated addition. This fixes deep-recursion failures when evaluating even small canonical domains.
- Adds circle indices modulo `2^31`, cosets, conjugate cosets, circle domains, canonical cosets, and structural size and index-ordering lemmas.
- Adds regression checks for small scalar agreement, the maximum circle index, exact coordinates of a canonical domain point, all points of a 16-point domain, and conjugate ordering.
- Exports the source and test modules through the aggregate imports.

## Scope and Follow-Up Work

This PR establishes the structural API, not a complete verified interpolation domain. The following remain explicit follow-up work:

- Prove that the generator has order `2^31` and that `CirclePointIndex.toPoint` is a group homomorphism.
- Formalize the coset and domain validity conditions, including distinctness, disjointness of conjugate halves, and actual cardinality. The current `Coset` and `CircleDomain` structures do not enforce these invariants for arbitrary values; their size functions describe the indexed shapes.
- Formalize circle polynomial evaluation, interpolation, and FRI.

## Validation

Validated locally after merging upstream `main`, under Lean v4.33.1:

- `lake build`
- `lake test`
- `lake exe axiomsweep --check`
- `./scripts/update-lib.sh`
- `./scripts/check-imports.sh`
- `./scripts/lint-style.sh`
- `python3 ./scripts/check-docs-integrity.py`
- `git diff --check 4ce69b905b618ad147e4d3a27ee0a841263d49a0..HEAD`

The axiom sweep reports no `sorry` or non-standard axiom dependencies. No `native_decide` is used.

### CODE REVIEW

**Comment by adrienlacombe** [comment]
@codex review

File: CompPoly/Fields/Mersenne31/Circle.lean [hunk 1]
```diff
@@ -0,0 +1,397 @@
+/-
+Copyright (c) 2026 CompPoly Contributors. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Adrien Lacombe
+-/
+module
+
+public import CompPoly.Fields.Mersenne31.Basic
+public meta import Lean.Elab.Tactic.Omega
+public import Mathlib.Tactic.Ring
```
[the remark this answers is not in the document]
Comment (adrienlacombe) [reply CompPoly/Fields/Mersenne31/Circle.lean]: Fixed in 7b71a5dec3fcc2bc4dc268ebfa6626194516cd2a. Removed `public` from both tactic-only imports: Omega is now a private `meta import`, and Ring is a private ordinary import. The full `lake build` and `lake test` pass, as do the import and style checks.

File: CompPoly/Fields/Mersenne31/Circle.lean [hunk 2]
```diff
@@ -0,0 +1,397 @@
...
+Mersenne31 field. It records the circle equation, the STWO M31 circle generator,
+index arithmetic modulo the circle order, and the coset/domain shapes used by
+canonical circle domains.
+
+`CirclePointIndex.toPoint` currently interprets an index via `Point.nsmul` on the
+canonical natural representative `i.val`. A follow-on PR should prove generator
+order `2^31` and that `toPoint` is a group homomorphism on `CirclePointIndex`.
+-/
+
+@[expose] public section
```
[the remark this answers is not in the document]
Comment (adrienlacombe) [reply CompPoly/Fields/Mersenne31/Circle.lean]: Fixed in 7b71a5dec3fcc2bc4dc268ebfa6626194516cd2a. Replaced the blanket `@[expose] public section` with `public section`; explicit exposure is limited to `OnCircle`, `logOrder`, and `order`, where downstream reduction is intentional or required for the index representation. Added public rewrite lemmas for the generator coordinates and domain constructor, and changed the relevant `:= rfl` proofs to `:= by rfl` so they do not require exporting implementation bodies. Regression tests now exercise ordinary-import proofs and verify that scalar multiplication remains opaque while its public lemmas and runtime evaluation work. Full build, tests, axiom sweep, lint, import, and documentation checks pass locally.

**Comment by dhsorens** [comment]
will take a look at this today, first glance LGTM and will likely merge it in - thanks for this!

File: CompPoly/Fields/Mersenne31/Circle.lean [hunk 3]
```diff
@@ -0,0 +1,418 @@
...
+  logSize_le_logOrder := c.logSize_le_logOrder
+
+/-- The first coset index is its initial index. -/
+@[simp]
+theorem indexAt_zero (c : Coset) : c.indexAt 0 = c.initialIndex := by
+  simp [indexAt]
+
+/-- Successive coset indices differ by the fixed step size. -/
+@[simp]
+theorem indexAt_succ (c : Coset) (i : Nat) :
```
Comment (adrienlacombe) [inline CompPoly/Fields/Mersenne31/Circle.lean:295]: **`@[simp]` on `indexAt_succ` breaks `simp` on literal indices.**

The `i + 1` pattern matches numerals, so `simp` peels a literal index one step per rewrite. Checked downstream against this head:

```lean
example (c : Coset) (h : c.indexAt 600 = 0) : True := by
  simp at h   -- maximum recursion depth has been reached
  trivial
```

and `c.indexAt 4` becomes a four-term `+ c.stepSize` chain. Two side effects: the simp set is non-confluent with `conjugate_indexAt` (`c.conjugate.indexAt (i + 1)` normalises to `-(c.indexAt i + c.stepSize)` on one path and to `-c.indexAt i + -c.stepSize` on the other, and `simp` cannot close one against the other), and `indexAt_right` no longer fires once `Nat.add_zero` rewrites `D.halfCoset.size + 0`.

Suggestion: keep `indexAt_succ` as a plain lemma (no `@[simp]`) and give simp a closed form instead:

```lean
@[simp] theorem indexAt_eq (c : Coset) (i : Nat) :
    c.indexAt i = c.initialIndex + c.stepSize * (i : CirclePointIndex) := by rfl
```

**Review by adrienlacombe — COMMENTED** [review]
Three things to fix before this merges, checked against `7b71a5d` with downstream scratch modules (details inline):

1. `@[simp] Coset.indexAt_succ` makes `simp` recurse on literal indices.
2. The exposure narrowing left most definitions opaque with no characterisation lemmas, so basic facts are unprovable from other modules.
3. The tests never exercise the coset step, and the `toPoint (-1)` guards hold for every circle point, so the generator's order is unchecked.

The definitions themselves match STWO, the pinned constants are correct, and the generator has order exactly `2^31` (verified independently).

File: CompPoly/Fields/Mersenne31/Circle.lean [hunk 4]
```diff
@@ -0,0 +1,418 @@
...
+
+/-- The antipodal point. Reserved for follow-on circle-group lemmas. -/
+def antipode (p : Point) : Point where
+  x := -p.x
+  y := -p.y
+  onCircle := by
+    simpa [OnCircle, pow_two] using p.onCircle
+
+/-- Circle-group addition, written as multiplication of complex coordinates. -/
+def add (p q : Point) : Point where
```
Comment (adrienlacombe) [inline CompPoly/Fields/Mersenne31/Circle.lean:75]: **Opaque bodies without characterisation lemmas: most of the API is unprovable outside this module.**

After dropping the blanket `@[expose]`, only the rewrite lemmas the test file needed were added. From an importing module (no `import all`) each of these fails by `rfl`, by `unfold`, and by `simp [...]` ("Expected a definition with an exposed body"):

- `(p + q).x = p.x * q.x - p.y * q.y` (and `.y`), hence also `p + (-p) = 0`
- `c.size = 2 ^ c.logSize`, `D.logSize = D.halfCoset.logSize + 1`
- `toPoint i = Point.nsmul generator i.val`, and the `pointAt` unfoldings
- `(Coset.new i n h).initialIndex = i` / `.stepSize` / `.logSize`; `odds`, `halfOdds`, `CanonicCoset.coset/halfCoset` are fully opaque
- `subgroupGen 5 = 2 ^ 26`, `CirclePointIndex.generator = 1`

Consequences: `CircleDomain.indexAt_left`'s hypothesis `i < D.halfCoset.size` cannot be discharged downstream, and the order/homomorphism follow-up promised in the module docstring can only be written in this file or via same-package `import all`. `docs/wiki/module-system.md` asks for a characterisation lemma per opaque definition.

Suggestion: `@[simp]` lemmas `add_x`, `add_y`, `antipode_x`/`antipode_y`, `Coset.size_eq`, `CircleDomain.logSize_eq`, `toPoint_def`/`pointAt_def`, `Coset.new_initialIndex`/`new_stepSize`/`new_logSize`, `CirclePointIndex.generator_eq` (all `:= by rfl`), or `@[expose]` on the one-line constructor-like defs. Everything above becomes provable with `import all`, so this is purely the exposure choice.

File: tests/CompPolyTests/Fields/Mersenne31/Circle.lean [hunk 5]
```diff
@@ -0,0 +1,128 @@
...
+  logSize := 4
+  one_le_logSize := by decide
+  logSize_succ_le_logOrder := by decide
+
+#guard smallCanonicCoset.coset.logSize = 4
+#guard smallCanonicCoset.halfCoset.logSize = 3
+#guard smallCanonicCoset.circleDomain.logSize = 4
+#guard smallCanonicCoset.circleDomain.size = 16
+
+#guard (smallCanonicCoset.circleDomain.indexAt 0).val = 67108864
```
Comment (adrienlacombe) [inline tests/CompPolyTests/Fields/Mersenne31/Circle.lean:113]: **The fixtures never pin the coset step, and the order guards are tautologies.**

Every guard in this block depends only on `initialIndex`, `logSize`, or identities that hold for any indices. A clone of `halfOdds 3` with `stepSize := 0` (or `subgroupGen 4`) passes lines 82, 94-95, 108-115 and 117-124 verbatim while the "16-point domain" has two distinct indices. The on-circle sweep holds for any `List Point` (the invariant is a constructor field), and the conjugate pairing holds for any half coset by Lagrange. The same applies to lines 67-68: `(2^31 - 1) • P = -P` for every point of the order-`2^31` group, so those guards pass with `ZMod (2^32)` as the index type or with `generator + generator` as the generator, and nothing checks that the order is exactly `2^31`.

All of these pass on this head and cost nothing:

```lean
#guard (smallCanonicCoset.circleDomain.indexAt 1).val = 335544320
#guard (smallCanonicCoset.circleDomain.pointAt 1).x = 1415090252
#guard (smallCanonicCoset.circleDomain.pointAt 1).y = 2112881577
-- 16 distinct points, and the STWO invariant that the domain is the odds coset as a set
#guard ((List.range 16).map fun i =>
  let p := smallCanonicCoset.circleDomain.pointAt i; (p.x, p.y)).eraseDups.length = 16
#guard ((List.range 16).map fun i => (smallCanonicCoset.circleDomain.indexAt i).val).mergeSort
    (fun a b => decide (a ≤ b)) ==
  ((List.range 16).map fun i => (smallCanonicCoset.coset.indexAt i).val).mergeSort
    (fun a b => decide (a ≤ b))
-- generator order exactly 2^31: 2^30 · G is the unique element of order 2
#guard (CirclePointIndex.toPoint ((2 ^ 30 : Nat) : CirclePointIndex)).x = -1
#guard (CirclePointIndex.toPoint ((2 ^ 30 : Nat) : CirclePointIndex)).y = 0
```
